US07534805B2
16.1) 1-[4-(2-morpholin-4-yl ethoxy)phenyl]ethanone
Sodium hydride (3.18 g; 0.0795 mol of a powder dispersed at 60%) is added at 23° C. to a solution containing 4-(2-hydroxyethyl)morpholine (9.40 g, 0.072 mol) in dimethylformamide (60 ml). Stirring is maintained for 30 minutes then the compound 4-fluoroacetophenone (5 g, 0.0362 mol) is added. The reaction medium is stirred for one hour at 23° C. then cooled down to 0° C. and water is added. After the addition of ethyl acetate then extraction, the organic phase is washed with a saturated sodium chloride solution, dried over sodium sulphate then the solvent is evaporated off. The residue obtained is adsorbed on silica then purified by chromatography on a Biotage-type silica column (eluent: ethyl acetate-heptane: 6-1). An orange-coloured oil is obtained.

reactant | Sodium hydride | [H-].[Na+]
reactant | 4-(2-hydroxyethyl)morpholine | 0.072 mol, 9.40 g | OCCN1CCOCC1 | C6H13NO2
reactant | 4-fluoroacetophenone | 0.0362 mol, 5 g | CC(=O)C1=CC=C(C=C1)F | C8H7FO
reactant | water | O | H2O
solvent | dimethylformamide | 60 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-[4-(2-morpholin-4-yl ethoxy)phenyl]ethanone | N1(CCOCC1)CCOC1=CC=C(C=C1)C(C)=O | C14H19NO3
